US07700625B2
A solution of 5-(4-hydroxy-1-methyl-piperidin-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (107 mg; 0.32 mmol) in THF (4 ml) was treated with concentrated hydrochloric acid (1.5 ml) then heated at reflux for 4 hours, then evaporated and re-evaporated with toluene to give 4-(2,3-dihydro-1H-isoindol-5-yl)-1-methyl-piperidin-4-ol dihydrochloride as a brown gum.

reactant | 5-(4-hydroxy-1-methyl-piperidin-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 0.32 mmol, 107 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1(CCN(CC1)C)O | C19H28N2O3
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 4-(2,3-dihydro-1H-isoindol-5-yl)-1-methyl-piperidin-4-ol dihydrochloride | Cl.Cl.C1NCC2=CC(=CC=C12)C1(CCN(CC1)C)O | InChI=1S/C14H20N2O.2ClH/c1-16-6-4-14(17,5-7-16)13-3-2-11-9-15-10-12(11)8-13;;/h2-3,8,15,17H,4-7,9-10H2,1H3;2*1H
